US08980888B2
<Step 2> Synthesis of methyl 2-amino-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate
Platinum(IV) oxide (3 g) was added to a mixed solution of methanol (200 ml), methylene chloride (200 ml), and concentrated hydrochloric acid (3.9 ml) containing the methyl 2-amino-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate (3.0 g) obtained in (Example 5.16) <Step 1>. The obtained mixture was stirred in a hydrogen atmosphere for 66 hours at room temperature. Thereafter, the reaction solution was filtered with Celite, and was then washed with methanol (80 ml). The filtrate was combined with the washing solution, and the thus mixed solution was then concentrated under reduced pressure. The obtained residue was subjected to azeotropy with methanol (20 ml) four times, so as to obtain the title compound (3.3 g) in the form of a light brown solid.

reactant | methanol | 200 ml | CO | CH4O
reactant | hydrochloric acid | 3.9 ml | Cl | ClH
reactant | methyl 2-amino-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 3.0 g | NC1=NN2C(C=C(C=C2)C(=O)OC)=N1 | C8H8N4O2
reactant | hydrogen | [H][H] | H2
catalyst | Platinum(IV) oxide | 3 g | [Pt](=O)=O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-amino-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 3.3 g | NC1=NN2C(CC(CC2)C(=O)OC)=N1 | C8H12N4O2
